US09315521B2
To a solution of (5-chloro-1-methyl-1H-imidazol-4-yl)methanol (397 mg, 2.7 mmol) in anhydrous dichloromethane (20 mL) was added thionyl chloride (1 mL). The mixture was stirred at room temperature for 2 hours. Dichloromethane was evaporated and then co-evaporated with toluene (2×10 mL). The residue was dried in vacuo, affording 5-chloro-4-(chloromethyl)-1-methyl-1H-imidazole hydrochloride (550 mg, 99% yield). The product was used without further purification.

reactant | (5-chloro-1-methyl-1H-imidazol-4-yl)methanol | 2.7 mmol, 397 mg | ClC1=C(N=CN1C)CO | C5H7ClN2O
reactant | thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 5-chloro-4-(chloromethyl)-1-methyl-1H-imidazole hydrochloride | 550 mg, 99% yield | Cl.ClC1=C(N=CN1C)CCl | InChI=1S/C5H6Cl2N2.ClH/c1-9-3-8-4(2-6)5(9)7;/h3H,2H2,1H3;1H
